US05591742
3-(2-Ethoxybenzoylamino)-4-n-propylpyridine-2-carboxamide
2-Ethoxybenzoyl chloride (2.96 g, 0.016 mol) was added dropwise to a stirred solution of 3-amino-4-n-propylpridine-2-carboxamide (Preparation 6; 1.43 g, 0.008 mol) in pyridine (40 ml) at 0° C. The mixture was stirred at ambient temperature for 4 hours and then the solvent evaporated under vacuum. The residue was dissolved in dichloromethane (100 ml), the solution washed with saturated aqueous sodium carbonate solution (100 ml) and the aqueous phase then washed with dichloromethane (2×25 ml). The combined organic extracts were dried (MgSO4) and evaporated under vacuum, then the residue purified by chromatography on silica gel (15 g), using a methanol in dichloromethane elution gradient (0-3% methanol), followed by crystallisation from ethyl acetate to give the product as a light brown solid (1.36 g, 60%), 129°-131° C. Found: C,66.29; H,6.53; N,12.78. C18H21N3O3 requires C,66.04; H,6.47; N,12.84%.

reactant | 2-Ethoxybenzoyl chloride | 0.016 mol, 2.96 g | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
reactant | 3-amino-4-n-propylpridine-2-carboxamide | 0.008 mol, 1.43 g | NC=1C(=NC=CC1CCC)C(=O)N | C9H13N3O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Ethoxybenzoylamino)-4-n-propylpyridine-2-carboxamide | 1.36 g, 60% | C(C)OC1=C(C(=O)NC=2C(=NC=CC2CCC)C(=O)N)C=CC=C1 | C18H21N3O3
